US07378435B2
3-[3-(4-Fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl]-1H-indole-6-carboxylic acid (intermediate 1)
To a solution of 0.7 g (1.85 mmol) 3-[3-(4-fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl]-1H-indole-6-carboxylic acid methyl ester in 12 mL of THF and 6 mL of H2O, was added 0.39 g (9.25 mmol) LiOH.H2O in one portion. The reaction mixture was heated under reflux for 16 h. After the evaporation the mixture was extracted with Et2O (10 mL), and acidified to pH=2-3 with 2 N HCl. The resulting solid was filtered off, washed with water and dried to give 0.65 g of the title compound (intermediate 1) in 97% yield as a white solid. (m/e): 365.1 (MH+; 100%).

reactant | 3-[3-(4-fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl]-1H-indole-6-carboxylic acid methyl ester | 1.85 mmol, 0.7 g | COC(=O)C1=CC=C2C(=CNC2=C1)C(=O)C=1C(=NOC1C)C1=CC=C(C=C1)F | C21H15FN2O4
reactant | LiOH.H2O | 9.25 mmol, 0.39 g | O[Li].O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | H2O | 6 mL | O | H2O
product | 3-[3-(4-Fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl]-1H-indole-6-carboxylic acid | 0.65 g, 97% yield | FC1=CC=C(C=C1)C1=NOC(=C1C(=O)C1=CNC2=CC(=CC=C12)C(=O)O)C | C20H13FN2O4
